US04293552
1-(2-Chlorobenzoyl)-3-[5-(4-bromophenyl)-6-methyl-2-pyrazinyl]urea
1-(2-Chlorobenzoyl)-3-[5-(4-bromophenyl)-6-chloro-2-pyrazinyl]urea, weighing 1.4 g., and having a melting point of about 240°-242° C., from 0.9 g. of 2-amino-5-(4-bromophenyl)-6-chloropyrazine and 0.65 g. of 2-chlorobenzoylisocyanate.

reactant | 1-(2-Chlorobenzoyl)-3-[5-(4-bromophenyl)-6-chloro-2-pyrazinyl]urea | ClC1=C(C(=O)NC(=O)NC2=NC(=C(N=C2)C2=CC=C(C=C2)Br)Cl)C=CC=C1 | C18H11BrCl2N4O2
reactant | 2-amino-5-(4-bromophenyl)-6-chloropyrazine | NC1=NC(=C(N=C1)C1=CC=C(C=C1)Br)Cl | C10H7BrClN3
reactant | 2-chlorobenzoylisocyanate | ClC1=C(C(=O)N=C=O)C=CC=C1 | C8H4ClNO2
product | 1-(2-Chlorobenzoyl)-3-[5-(4-bromophenyl)-6-methyl-2-pyrazinyl]urea | ClC1=C(C(=O)NC(=O)NC2=NC(=C(N=C2)C2=CC=C(C=C2)Br)C)C=CC=C1 | C19H14BrClN4O2
